US07838483B2
Acrylonitrile (110 g, 137 cm3, 2.08 mol) was added to a vigorously stirred mixture of ethylenediamine (25 g, 27.8 cm3, 0.416 mol) and water (294 cm3) at 40° C. over 30 min. During the addition, it was necessary to cool the mixture with a 25° C. water bath to maintain temperature at 40° C. The mixture was then stirred for additional 2 hours at 40° C. and 2 hours at 80° C. Excess acrylonitrile and half of the water were evaporated off and the residue, on cooling to room temperature, gave a white solid which was recrystallised from MeOH-water (9:1) to give pure product 3,3′,3″,3′″-(ethane-1,2-diylbis(azanetriyl))tetrapropanenitrile (86.6 g, 76.4%) as white crystals, mp 63-65° C.

reactant | Acrylonitrile | 2.08 mol, 137 cm3, 110 g | C(C=C)#N | C3H3N
reactant | ethylenediamine | 0.416 mol, 27.8 cm3, 25 g | C(CN)N | C2H8N2
solvent | water | 294 cm3 | O | H2O
product | 3,3′,3″,3′″-(ethane-1,2-diylbis(azanetriyl))tetrapropanenitrile | 86.6 g, 76.4% | C(CN(CCC#N)CCC#N)N(CCC#N)CCC#N | C14H20N6
